Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ F PMHx RNY-gastric bypass in ___ at ___, lap cholecystectomy 
and C-section, mild intermittent asthma, chronic knee pain on 
oxycodone, telogen effluvium who presents with nausea, vomiting, 
failure to thrive. 

Patient reports chronic nausea, which acutely worsened in the 
last 2 weeks.  In these last two weeks, she developed persistent 
nausea, vomiting, abdominal pain, and inability to tolerate even 
small amounts of PO. Abdominal pain is sharp and diffuse with 
occasional radiation to the back.  She reports pain is worse 
after eating.  Vomitus is described as bilious.  She does 
occasionally feel as if food "gets stuck in her chest," and 
comes right back up after she eats.  She has a bowel movement 
every ___ days and describes bowel movements as "watery, 
pebble-like."  In addition to the nausea & vomiting, patient 
endorses weight loss of ~50 lbs in the last ___ months.  She has 
been losing large amounts of hair, falling out in clumps, during 
this time.  She
endorses worsening edema in the bilateral upper and lower 
extremities  She endorses more anxiety and stress since the loss 
of her mother on ___.  She denies HA, vision change, 
difficulty swallowing, URI sx, chest pain, shortness of breath, 
dysuria, rashes, joint symptoms.
 
She went to her PCP's office two days prior to admission with 
these symptoms.  PCP advised her to present to ED but patient 
did not want to come to hospital at that time.  Rhematologic 
work-up was sent and the patient was started on PO prednisone to 
treat for possible inflammatory disorder.  The patient's 
symptoms
persisted so she decided to come to the ED on ___.

ED course: 
--------
Vitals: Afebrile P 70-90s, BP 100-150/60-90s, RR ___ SPo2 94% 
or greater
Exam: TTP palpation in the periumbilical and left lower 
quadrant. no guarding.
Labs: 
UA: repeated d/t dirty sample without clear e/o infection
HCG negative
Lactate 3.8--> 2.6
10.1>11.8/35.6<423 proBNP: ___ Glucose: 148
4.3 17 0.8
Liver labs: wnl aside from AP 126, Albumin 2.6 CRP ___
Meds: Zofran 2x, oxycodone 2x, Morhpine 4x, 1L NS, 1L LR, 
Valium,
dilaudid 1x
Imaging:
CT abd/pelvis: Mild left hydronephrosis associated with 1.4 cm 
obstructing stone in the proximal left ureter. No e/o high grade 
obstruction.
CXR: Non focal
Micro: Ucx (2x) Pending
Impression/Course:
Seen by bariatric surgery; admit to medicine for workup of
swelling, hair loss, fatigue recommend nutrition labs. 

 
Past Medical History:
Obesity 
GERD
History of gastric bypass 
Knee pain 
Tobacco Abuse
Mild intermittent asthma 
History of colecystectomy
 
Social History:
___
Family History:
Mother - ___ cancer
Sister - ___ Cancer

 
Physical Exam:
ADMISSION:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: + temporal wasting, ears and nose without visible erythema,
masses, or trauma.  + red, dry tongue
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Easy WOB, poor air movement, scattered wheeze
GI: Abdomen soft, non-distended, non-tender to palpation.  +
hyper active bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted, + non-pitting edema in
bilateral hands, 2+ pitting edema to knees bilaterally
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:

___ 06:54PM BLOOD WBC-10.1* RBC-3.42* Hgb-11.8 Hct-35.6 
MCV-104* MCH-34.5* MCHC-33.1 RDW-19.5* RDWSD-73.7* Plt ___
___ 06:54PM BLOOD Neuts-84.1* Lymphs-14.1* Monos-1.0* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-8.45* AbsLymp-1.42 
AbsMono-0.10* AbsEos-0.01* AbsBaso-0.01
___ 06:54PM BLOOD Glucose-148* UreaN-11 Creat-0.8 Na-140 
K-4.3 Cl-106 HCO3-17* AnGap-17
___ 06:54PM BLOOD ALT-28 AST-20 LD(LDH)-229 AlkPhos-126* 
TotBili-0.3
___ 06:54PM BLOOD Lipase-4
___ 06:54PM BLOOD Albumin-2.8*
___ 03:52AM BLOOD Lactate-2.6*
___ 10:59PM BLOOD Lactate-3.8*

IMPORTANT INTERIM RESULTS:

___ 06:54PM BLOOD proBNP-424*
___ 06:54PM BLOOD TSH-0.61
___ 03:15PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:54PM BLOOD HCG-<5
___ 06:54PM BLOOD CRP-5.4*
___ 03:15PM BLOOD HCV Ab-NEG

MICRO:
***

DISCHARGE LABS:
___ 10:51AM BLOOD WBC-11.1* RBC-3.31* Hgb-11.1* Hct-35.2 
MCV-106* MCH-33.5* MCHC-31.5* RDW-18.7* RDWSD-73.9* Plt ___

IMAGING:

CT ABDOMEN/PELVIS ___
1. Mild left hydronephrosis secondary to a 1.4 cm obstructing 
stone in the proximal left ureter. 
2. Postoperative changes of Roux-en-Y gastric bypass with 
minimally dilated loops of small bowel but no evidence of high 
grade obstruction. 
3.  No pneumoperitoneum or free fluid. 

KUB (supine only) ___
Oral contrast has passed into distal loops of small bowel in the 
right lower
quadrant and into the ___.

LENIs ___
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.  Moderate edema and soft tissue swelling at the level of 
the calves.

EGD (___): report pending.  Reportedly unremarkable. 

 
Brief Hospital Course:
___ is a ___ female with history of 
RNY-gastric bypass in ___ at ___, lap cholecystectomy, and 
C-section, on chronic oxycodone for knee pain, who presents with 
persistent nausea and vomiting, food intolerance, and weight 
loss of unclear etiology.

ACUTE/ACTIVE PROBLEMS:
# Abdominal pain:
# Acute on chronic persistent nausea, vomiting:
# History of gastric bypass:
Ms. ___ presented with abd pain, N/V - which reportedly is 
chronic but worsened more recently.  ACS/bariatric surg was 
consulted, and initially there were concerns for mild SBO based 
on CT scan, however KUB w/ contrast passing into ___ so not 
really obstructed.  Felt no need for surgery. 
   Due to persistent pain, GI was consulted and EGD was done 
without any remarkable findings. Normal mucosa visualized, 
biopsies taken  Colonoscopy was considered. however, pt 
expressed desire to have it done as outpt.  Able to tolerate PO 
(full breakfast) without significant challenges.  
   Differential included SIBO = less likely celiac, IBD, panc 
insufficiency.  Stool studies are pending STOOL: HPylori Stool 
Ag, elastase, calprotectin. BLOOD: celiac serologies, IgA as 
outpt.  She was ambulating and showed no clear evidence of 
distress.  She has also ambulated off the floor and been gone 
for an hour for need to smoke.  Informed that she has to stay in 
hospital. 

# Lower extremity edema:
Chronic over last few months, though worsening. Suspect ___ 
hypoalbuminemia from malnutrition. She has no clear evidence of 
liver disease. DDx includes cardiac though BNP only mildly 
elevated (though could be falsely low in setting of obesity) vs. 
kidney disease - creatinine wnl though has proteinuria vs. 
venous insufficiency. ___ US in ___ was negative for DVT. TSH 
0.61. 

# Failure to thrive:
# Weight loss:
# Hair loss:
# Severe malnutrition:
# Vitamin D deficiency:
Suspect patient has developed nutritional deficiencies from poor 
PO intake and persistent nausea and vomiting in the setting of 
having a prior gastric bypass. Her vitamin D level is 
significantly low at 7. CBC w/o anemia. TSH normal in ___. 
CRP was mildly elevated at 5.4. HIV negative. ___ negative.

# Lactic acidosis:
Suspect ___ dehydration, hypovolemia given poor PO intake and 
N/V. Improved s/p IVF. She did report fevers at home and CRP is 
elevated raising possibility of infection. WBC count also 
elevated though could be from prednisone.

# Hydronephrosis, obstructing ureteral stone
Incidentally found on CT A/P. Symptoms are not classic for renal 
colic. Creatinine is normal.  Will need outpatient urology 
work-up.

# Stress: Due to recent loss of her mother.  Mother passed away 
last month, patient is having a really hard time adjusting (see 
PACT note from today for details). Her sister is also ill w/ 
metastatic ___ cancer, apparently has been admitted to our 
hospital several times before and ___ is her primary 
caretaker in addition to patient's ___ daughter.

# Elevated Alk Phos: GGTP elevated.  Hep serologies neg, ___, 
Anti-Scl neg. 
Awaiting ___, AMA, ___, anti-LK, IGG subclases, SPEP

#Tobacco abuse: Nicotine replacement provided.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Omeprazole 40 mg PO BID 
3. Ondansetron ODT 8 mg PO TID 
4. Fluticasone Propionate 110mcg 1 PUFF IH BID 
5. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
6. PredniSONE 50 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*20 Tablet Refills:*0 
2.  Vitamin D ___ UNIT PO 1X/WEEK (MO,FR)  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing  
4.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
5.  Omeprazole 40 mg PO BID  
6.  Ondansetron ODT 8 mg PO TID  
7.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth Q4-6H Disp #*6 Tablet 
Refills:*0 
8.  PredniSONE 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain 
Partial SBO
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure to look after you.  As you know, you were 
admitted with abdominal pain and concern for small bowel 
obstruction.  You had multiple tests which revealed that there 
was no obstruction and you had good passage of content through 
the whole intestine.   An upper endoscopy was done - which 
showed no clear abnormalities either.  Multiple blood/stool 
tests were sent - some of which are pending and can be followed 
up by your Primary care doctor.

   Please take the Augmentin (antibiotics) as prescribed to see 
whether this can address a possible small bowel bacterial 
overgrowth - which can account for most of your symptoms.   

   We wish you well and good health.

Your ___ team 
 
Followup Instructions:
___